US05726306
A mixture of 4.9 g of 5-oxotetrahydrofuran-2-carboxylic acid and 5.5 ml of thionyl chloride was subjected to reflux for 2 hours. Thionyl chloride was then distilled off under reduced pressure to leave 5-oxotetrahydrofuran-2-carbonyl chloride. This product was mixed with 5.0 g of 2-aminobenzophenone, 200 ml of ethyl acetate and 200 ml of a saturated aqueous solution of sodium hydrogencarbonate, which was stirred for one hour at room temperature. The ethyl acetate layer was washed with water and dried over anhydrous magnesium sulfate, then the solvent was distilled off under reduced pressure. The residue was purified by means of a silica gel column chromatography (eluent, hexane:ethyl acetate=2:1) to give 2-(5-oxotetrahydrofuran-2-carbonyl)aminobenzophenone (6.5 g) as needles, m.p. 100° C.-102° C.

reactant | 5-oxotetrahydrofuran-2-carboxylic acid | 4.9 g | O=C1CCC(O1)C(=O)O | C5H6O4
reactant | thionyl chloride | 5.5 ml | S(=O)(Cl)Cl | Cl2OS
product | 5-oxotetrahydrofuran-2-carbonyl chloride | O=C1CCC(O1)C(=O)Cl | C5H5ClO3
